US04331664
Phosphorus oxychloride (0.92 g) was added dropwise over 3 minutes at -5° to -10° C. to a solution of dimethylformamide (0.44 g) in ethyl acetate (2 ml). Ethyl acetate (20 ml) was added thereto and after 10 minutes, 2-isopropoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetic acid (syn isomer) (1.29 g) was added thereto at -5° to -10° C. The mixture was stirred for 10 minutes to give a clear solution. On the other hand, 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.64 g) was dissolved under stirring in a solution of sodium bicarbonate (1.68 g) in water (30 ml), and then acetone (20 ml) was added thereto. To the solution was added dropwise with stirring the ethyl acetate solution obtained above at 0° to 5° C. and at pH 6.5 to 7.5. After stirring for 20 minutes at the same temperature, the aqueous layer was separated and acetone was distilled off. The remaining aqueous layer was adjusted to pH 3.0 with 10% hydrochloric acid under ice-cooling and stirring. Precipitates were collected by filtration, washed with water and dried to give 7-[2-isopropoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.7 g).

reactant | Phosphorus oxychloride | 0.92 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-isopropoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetic acid | 1.29 g | C(C)(C)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C9H11N3O4S
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.64 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | sodium bicarbonate | 1.68 g | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
solvent | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 0.44 g | CN(C=O)C | C3H7NO
product | 7-[2-isopropoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.7 g | C(C)(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C19H21N9O6S3
